US05561101
7- chloro-3-(4,6- dimethoxy-2-pyrimidinyl)phthalide (Table A, cpd. no. 6)
1.68 g (0.0 mol) of 7-chlorophthalide is added to 100 ml of dry THF and the mixture cooled to -70° C. 6.8 ml (0.01 mol) of 1.5M LDA is then added over 3 minutes and the reaction mixture stirred at -70° C. for 15 minutes. 2.18 g (0.01 mol) of 2-methylsulfonyl-4,6-dimethoxypyrimidine in 50 ml of THF is then added and the mixture stirred for 4 hrs with temperature being maintained at -75° to -70° C. The reaction mixture is neutralized with 1.5 g of NH4Cl in 5 ml of water, warmed and concentrated on a rotovaporator. The concentrate is partitioned between CH2Cl2 /H2O (50 ml each) and the aqueous phase separated and treated with further 30 ml of CH2Cl2. The combined CH2Cl2 phases are washed with 30 ml of water, separated and concentrated. The concentrate was flash chromatographed on silica gel using 80/20 hexane/ethyl acetate (500 ml), 50/50 hexane/ethyl acetate (500 ml) and 80/20 acetone/methanol (500 ml) (30 fractions×50 ml). The title compound (fractions 9-23) was obtained after recrystallization from hexane/CH2Cl2 as a white solid, m.p. 148°-149° C.

reactant | 7-chlorophthalide | 0.0 mol, 1.68 g | ClC=1C=CC=C2COC(=O)C12 | C8H5ClO2
reactant | LDA | 0.01 mol, 1.5M, 6.8 ml | [Li+].CC(C)[N-]C(C)C
reactant | 2-methylsulfonyl-4,6-dimethoxypyrimidine | 0.01 mol, 2.18 g | CS(=O)(=O)C1=NC(=CC(=N1)OC)OC | C7H10N2O4S
reactant | NH4Cl | 1.5 g | [NH4+].[Cl-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 7- chloro-3-(4,6- dimethoxy-2-pyrimidinyl)phthalide | ClC=1C=CC=C2C(OC(=O)C12)C1=NC(=CC(=N1)OC)OC | C14H11ClN2O4
